wheatstone_bridge - fault test
V1 pos 0 DC 20
R1 pos mid1 100.539827
R3 mid1 0 10.477674
R2 pos mid2 150.639556
R4 mid2 0 298.791923
Rg mid1 mid2 49.157089
.op
.control
run
print v(mid1) v(mid2) v(pos)
print @r1[i] @r3[i] @r2[i] @r4[i] @rg[i]
.endc
.end
